US07148357B2
193 mg (0.5 mmol) of 2-[(2-amino-pyridin-4-ylmethyl)-amino]-N-(3-trifluoromethyl-phenyl)-benzamide is mixed in 3 ml of dichloromethane with 69 mg (0.6 mmol) of methanesulfonic acid chloride and 61 mg (0.6 mmol) of triethylamine and stirred together for 1.5 hours at room temperature. Then, it is washed once with dilute sodium bicarbonate solution, dried, filtered and concentrated by evaporation. The residue is chromatographed via flash chromatography (5 g of Isolute) with a gradient of cyclohexane:ethyl acetate=100:0 to 50:50 as an eluant. 80 mg (30% of theory) of 2-[(2-bismethanesulfonylamino-pyridin-4-ylmethyl)-amino]-N-(3-trifluoromethyl-phenyl)-benzamide is obtained as a resin.

reactant | 2-[(2-amino-pyridin-4-ylmethyl)-amino]-N-(3-trifluoromethyl-phenyl)-benzamide | 0.5 mmol, 193 mg | NC1=NC=CC(=C1)CNC1=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC=C1 | C20H17F3N4O
reactant | methanesulfonic acid chloride | 0.6 mmol, 69 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.6 mmol, 61 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-[(2-bismethanesulfonylamino-pyridin-4-ylmethyl)-amino]-N-(3-trifluoromethyl-phenyl)-benzamide | 80 mg, 30% | CS(=O)(=O)N(C1=NC=CC(=C1)CNC1=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC=C1)S(=O)(=O)C | C22H21F3N4O5S2
